US08076325B2
Preparation 18: N-{[(7S)-3,4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-methyl}prop-2-en-1-amine
To 3.9 g (20 mmol) of {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}amine in 40 mL of acetone, at ambient temperature, there are added, all at once, 4.1 g (30 mmol/1.5 eq.) of potassium carbonate, and then there are quickly added dropwise 1.9 mL (22 mmol/1.1 eq.) of allyl bromide. Stirring is carried out at ambient temperature for 60 hours; the salts are then filtered off and the filtrate is concentrated. The residue (4.8 g) is chromatographed over 300 g of silica (eluant: dichloromethane/ethanol/ammonia: 98/2/0.2) to yield the desired product.

reactant | {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}amine | 20 mmol, 3.9 g | COC=1C=C2C[C@@H](C2=CC1OC)CN | C11H15NO2
reactant | potassium carbonate | 30 mmol, 4.1 g, 1.5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 22 mmol, 1.9 mL, 1.1 eq. | C(C=C)Br | C3H5Br
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | N-{[(7S)-3,4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-methyl}prop-2-en-1-amine | COC=1C=C2C[C@@H](C2=CC1OC)CNCC=C | C14H19NO2
